data/oMe_Silver.jsonl
{"reaction_id": "NR-207_1-c1ccc2ccccc2c1_2-c1ccc(Cl)cc1_3-c1ccccc1_4-CC(C)C","level": "medium","name": "Oppenauer Oxidation","reactants_smiles": ["O=C(c1ccc2ccccc2c1)(c1ccc(Cl)cc1)","C(c1ccccc1)(CC(C)C)O"],"products_smiles": ["OC(c1ccc2ccccc2c1)(c1ccc(Cl)cc1).C(c1ccccc1)(=O)CC(C)C"],"conditions": "Al(Oi-Pr)3","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(c1ccccc1)(CC(C)C)[OH+][Al-](OC(C)C)(OC(C)C)OC(C)C","step_weight": 0,"rationale": "The alcohol oxygen donates a lone pair to the Lewis acidic aluminum center, increasing polarization of the O–H bond and aligning the substrate for subsequent hydride transfer."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(CC(C)C)[O][Al](OC(C)C)OC(C)C","step_weight": 0,"rationale": "Proton transfer to an alkoxide ligand generates an aluminum-bound alkoxide, enhancing nucleophilicity at oxygen and stabilizing the complex for rearrangement."},{"step": 3,"type": "rearrangement","subtype": "hydride_shift","intermediate_smiles": "C(c1ccccc1)(CC(C)C)[O][Al-](OC(C)C)([O+]=C(c1ccc2ccccc2c1)(c1ccc(Cl)cc1))OC(C)C","step_weight": 0,"rationale": "Hydride shifts from the α-carbon of the coordinated alcohol to the electrophilic carbonyl carbon of the acceptor, driven by the stability of the resulting carbonyl and facilitated by aluminum coordination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(c1ccc2ccccc2c1)(c1ccc(Cl)cc1).C(c1ccccc1)(=O)CC(C)C","step_weight": 0,"rationale": "Product ketone and alcohol are released as aluminum–oxygen bonds are cleaved, favored by the stability of the neutral products and regeneration of the catalyst."}],"description": "In the Oppenauer oxidation, the aluminum isopropoxide catalyst coordinates to the alcohol, activating it for hydride transfer to a more electrophilic carbonyl acceptor. The reaction proceeds due to the thermodynamic drive toward forming a more stable carbonyl compound, with aluminum facilitating both activation and hydride migration."}
{"reaction_id": "NR-138_1-C1CCCCC1_2-c1ccc(OC)cc1_3-CC_4-c1ccc(N(C)C)cc1_5-C(C)(C)C_6-Cc1ccccc1","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)C1CCCCC1)(c1ccc(OC)cc1)(CC)","C(=O)(c1ccc(N(C)C)cc1)(C(C)(C)C)","NCc1ccccc1"],"products_smiles": ["C(C(=O)C1CCCCC1)(c1ccc(OC)cc1)(CC)C(c1ccc(N(C)C)cc1)(C(C)(C)C)NCc1ccccc1"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])C1CCCCC1)(c1ccc(OC)cc1)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(c1ccc(OC)cc1)=C(O)C1CCCCC1","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])C1CCCCC1)(c1ccc(OC)cc1)(CC)C(c1ccc(N(C)C)cc1)(C(C)(C)C)NCc1ccccc1","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)C1CCCCC1)(c1ccc(OC)cc1)(CC)C(c1ccc(N(C)C)cc1)(C(C)(C)C)NCc1ccccc1","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
